Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I don't know why I am here"
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
Mr. ___ is a ___ ___ male with recent admission to 
___ from ___ for newly diagnosed unspecified 
psychotic disorder, presenting on ___ from ___ 
___ for paranoia, hallucinations, agitation, and verbal 
aggression per reports from his mother. Upon interviewing 
patient, he continued to state that he is unaware of why he was 
brought into the emergency department. Patient denies any 
auditory or visual hallucinations, denies experiencing any 
bothersome sounds or  smells, and stated that he has been in a 
good mood for the past week. He expressed that he has been 
studying and attending classes this week and is enjoying his 
organic chemistry, computer science, and sociology courses, and 
is looking forward to studying for his midterms so he can 
maintain his 4.0 GPA. Since his recent visit to the ___ ED on 
___, he reports no problems with self care, denies depressed 
mood, SI/HI, sleeps 8 hours a night and is eating at least 3 
meals a day. He additionally reported that he has been taking 
his Risperidone 1 mg BID daily. 
.
During his recent admission to Deac4, patient had reported to 
his mother hypersensitivity to sounds and smells, and was 
refusing to stay at home, in hotel rooms, and even various 
apartments that his mother found for him to rent given that the 
sounds and smells were overwhelming him.  Following discharge, 
patient was seen again in ___ ED on ___ after patient was 
sectioned again at ___ (based upon mother's concerns 
reported to ___ physician on call) for concern for 
worsening psychotic symptoms and at this time was discharged 
given that patient was to follow up with outpatient providers. 
Nevertheless, it appears patient has not been following up (only 
saw his therapist once) and does not have a psychiatrist at this 
time. 
.
Collateral:  Mother -___-  ___ patient to ED.  
Interview conducted using ___ interpreter services; spoke to 
mother separately in private consultation room. Patient's mother 
appeared to be very tearful throughout conversation, and 
expressed being immensely concerned for patient's safety and 
well being. Since discharge from the ED last week, patient has 
been refusing to sleep at home due to his hypersensitivity to 
smells and sounds, and expressed to her that he was hearing 
voices as well. She stated that he has not showered in a week, 
has not been sleeping at home (expressed concern that patient 
might be sleeping outside in a park or elsewhere), and has been 
eating irregularly. Patient comes home for dinner to eat one 
meal, but then subsequently gets into arguments and adamantly 
refuses to take his medication because he believes he does not 
have any mental illness. Patient's mother has tried to ask him 
where he has been sleeping but he refuses to tell her. She has 
tried looking for him outside and has been unable to find him on 
multiple occasions. He reports to her that he has been attending 
his classes in the mornings. While at home for dinner patient 
has continued to express being worried that there are "toxins" 
in his body, and that he needs to flush these toxins out by 
drinking water. She states that he urinates constantly and is 
worried that he has a "digestive problem".
.
Ms. ___ reports that last night patient sounded very 
desperate for help, stated that he was frustrated and fed up 
with everything, and that he began throwing his backpack in the 
house, yelling, and crying. Patient appeared to be paranoid and 
angry at his mother and brother, and was afraid that if he were 
at home his family would take him to the hospital. He feels that 
he does not have any medical condition. After the outburst, 
patient left home again to sleep outside. Patient's mother 
contacted the ___ physician on call this morning, after 
which the patient was sectioned and brought in to ___ while 
patient was studying in the ___ at ___. 
.
Patient's mother expressed concern for patient's wellbeing, did 
not feel that he appears depressed but is worried that he 
appears to be distressed and frustrated, and is currently 
struggling to care for himself. She states that patient reports 
to her that he has been sleeping, but she does not believe that 
he is able to sleep while he is on the streets. She feels that 
he should be hospitalized again given his medication non 
adherence."
.
In the ED, he remained in good behavioral control and was 
medication compliant. Received RisperiDONE 1 mg po ___ 
08:52. Urinalysis and tox screen unremarkable outside of 
ketonuria.
.
On interview today, patient continues to deny all psychiatric 
symptoms. He denies having any sensitivities to sound or smell 
since discharge and reports that he has been consistently taking 
his medications.  He states that these medications were 
prescribed for "since" 2 sounds and smells".  He relates that he 
has been following up with his outpatient therapist ___ since 
discharge, and has seen him one time, with an appointment 
scheduled for next ___.  He states that they are 
still working to set him up with a psychiatrist at this time. 
When asked about why his mother may think that he should come to 
the hospital, patient states "I do not know, maybe it is because 
I am not around her all the time".  He repeatedly denies that he 
has been sleeping outside, or having any changes in his sleep. 
He reports that he is eating 3 meals consistently and reports 
that he is getting his breakfast from school, having lunch at 
school, and then having dinner with his mother every day.  He 
reports frustration that he is brought to the hospital, as he 
does not feel that he has any significant mood symptoms or 
perceptual disturbances at this time.  He reports worries about 
being admitted to the hospital, as he feels that he does not 
have a particular problem at this time, and has midterms 
starting on ___ of next week at his school.  He has been able 
since discharge to return to school, and make up his class work 
without issue, and has maintained good academic standing during 
this timeframe.  At this time, he denies any suicidal thinking 
or thoughts of self-harm.  He denies any auditory or visual 
hallucinations.  He denies any tactile or perceptual 
disturbances.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: unspecified psychotic illness
-Hospitalizations: one prior ___ at ___
-Current treaters and treatments: ___ 
-Self-injurious behavior or ideation: denies
-Harm to others: Denies
-Access to weapons: Denies
.
PAST MEDICAL HISTORY:
None current
 
Social History:
SUBSTANCE USE HISTORY:
Denies caffeine, alcohol, marijuana, or other illicit drug use.
.
FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
.
SOCIAL HISTORY:
___
Family History:
 FAMILY PSYCHIATRIC HISTORY:
 -Psychiatric Diagnoses: Mother with depression, some 
unspecified psychiatric pathology in paternal grandparents
 -Substance Use Disorders: None
 -Suicide Attempts/Completed Suicides: None
 
Physical Exam:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: $1.75= "7 quarters"
-Abstraction: Interprets "the grass is always greener on the
other side" as "you always think something you do not have is
better", interprets "you cannot judge a book by its cover" as 
you
cannot be superficial to make judgments"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: Young ___ man appearing stated age, thin, 
unshaven, wearing casual clothing, in no apparent distress
 -Behavior: Sitting up in chair, normal eye contact, no 
psychomotor agitation or retardation
 -Attitude: Cooperative, calm
 -Mood: "I feel normal"
 -Affect: euthymic, somewhat blunted affect with restricted 
range
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose 
associationt
 -Thought Content: Mostly endorsed concerns realted to his
studies and upcoming tests.  Denies any significant paranoia. 
Denies any auditory or visual hallucinations, and does not 
appear
to be attending to internal stimuli.  Denies any suicidal
ideation or thoughts of self-harm.  Denies any violent ideation.
 -Insight: Limited
 -Judgment: Limited
Exam On Discharge:

Mental Status:
-Appearance: thin Asian male appearing stated age, unshaven, 
dressed in gray tracksuit with additional track jacket 
underneath despite relatively warm room. In no acute distress, 
but eager to leave.
-Behavior: Sitting up straight, appropriate eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative, eager to be discharged. Engaged during 
discussion of importance of med compliance and ___ 
appointments. 
-Mood: "Good"
-Affect: Mood-congruent, full range, appropriate to situation. 
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Insight: Poor.
-Judgment: Limited.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Orientation: Oriented to person, date, time
-Attention: successfully completed serial 7's, ___ backwards, 
-Memory: ___ word registration and recall after 5 minutes
-Language: non-native ___ speaker, no paraphasic errors 
-Knowledge base: Appropriate to level of education. Names past 3 
US presidents.
-Abstraction: Interpreted "between a rock and a hard place" as 
"you have to choose between 2 evils"

 
Pertinent Results:
___ 07:47PM BLOOD Neuts-71.0 ___ Monos-6.7 Eos-0.8* 
Baso-0.5 Im ___ AbsNeut-4.44 AbsLymp-1.30 AbsMono-0.42 
AbsEos-0.05 AbsBaso-0.03
___ 07:47PM BLOOD WBC-6.3 RBC-5.33 Hgb-16.7 Hct-48.2 MCV-90 
MCH-31.3 MCHC-34.6 RDW-12.4 RDWSD-40.0 Plt ___
___ 07:47PM BLOOD Plt ___
___ 01:01PM BLOOD UreaN-8 Creat-0.7
___ 07:47PM BLOOD Glucose-89 UreaN-8 Creat-0.8 Na-140 K-4.3 
Cl-98 HCO3-29 AnGap-13
___ 07:47PM BLOOD estGFR-Using this
___ 07:47PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:47PM BLOOD HoldBLu-HOLD
___ 07:47PM BLOOD GreenHd-HOLD
___ 01:01PM BLOOD
___ 07:47PM BLOOD
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
Mr. ___ was admitted on a ___ which expired on 
___. After admission, Mr. ___ signed a conditional 
voluntary and a 3-day waiver on ___ which both expired on 
___. At that time, Mr. ___ was not deemed to be at risk 
of harm to self/others due to medication compliance and absence 
of reported symptoms, so Mr. ___ was discharged. Mr. ___ was 
also placed on 15 minute checks status on admission and remained 
on that level of observation throughout while being unit 
restricted.
. 
2. PSYCHIATRIC:
#) Mr. ___ presented due to his family's suspicions about 
medication
non-compliance, difficulty caring for himself, and suicidality. 
On initial interview, patient denied symptoms of depression, 
anxiety, or auditory or visual hallucinations. He believed that 
the hospitalization was all a "misunderstanding" due to his 
Mother not believing that he was taking his medications. 
Collateral from family was worrisome for continued 
hyper-reactivity to olfactory stimuli since last 
hospitalization, emotional volatility, odd behavior (suspicion 
that Mr. ___ was not sleeping in his apartment) and possible 
depression. On initial MSE, patient was noted to have linear 
thought process with good capacity for abstraction and no loose 
associations. The patient minimized his symptoms and reported 
that his olfactory sensitivity even prior to his first 
hospitalization (2 weeks prior) was not particularly bothersome 
to him, and that he only came in because his family was worried 
about him. However, throughout the admission, patient 
demonstrated somewhat odd behaviors, such as eating in smaller 
rooms from the community, and unexplained polyuria though to 
likely be related to increased water intake. Notably, patient's 
family reported he had been drinking significant amounts of 
water while at home to "wash out the toxins" referring to his 
risperidone. Patient continuously denied that this was the case, 
but his behavior was concerning for ongoing paranoia and 
olfactory hypersensitivity. As such, during his admission, 
patient's risperidone dosage was increased from 2 mg to 3 mg 
during his hospitalization. He was medication compliant 
throughout his admission. Diagnostically, the patient's 
presentation is concerning for unspecified psychotic illness. 
Organic causes should also be evaluated, and EEG was obtained 
during this admission, however results were pending at the time 
of discharge. He was instructed to follow up with his outpatient 
provider for results. Additionally, patient was scheduled for 
MRI with and without contrast, which he refused while on 
admission stating he would prefer to get this done as 
outpatient. We recommended that he follow up with his outpatient 
provider to complete this assessment as an outpatient.  On 
discharge, patient's mental status was notable for eagerness to 
return to school, he had poor insight and limited judgment, 
mostly focused on academics, and needing encouragement to 
prioritize his health as well following discharge. At this time, 
he denies any perceptual disturbances, auditory or visual 
hallucinations, or suicidal thinking or thoughts of self harm. 
Patient was scheduled with follow up with outpatient services at 
___ Counseling and follow up with a primary care physician. 
Additionally, plan at discharge was for patient to move into an 
apartment with his mother, and to collaborate with her to 
demonstrate that he is following through with medication 
compliance, and his outpatient appointments. 
.
3. SUBSTANCE USE DISORDERS:
#)Mr. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.
.
4. MEDICAL
#)Mr. ___ was medically cleared in the ED; no acute medical 
issues prevented admission to ___ 4. Additionally, Mr. ___ has 
no chronic medical issues requiring attention.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___  was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit.  Mr. ___ 
attended several of these groups.  Mr. ___ was visible but 
isolative in the milieu, preferring to study. Mr. ___ was 
respectful and appropriate when interacting with staff and 
peers.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ gave verbal and written permission for the team to 
contact her/his outpatient therapist, Mr. ___. Mr. 
___ was unresponsive to communications, but was informed 
that Mr. ___ had presented to Deac 4. (Mr. ___ did not have an 
outpatient psychiatrist while admitted but was advised to 
___ with his therapist, ___, who will refer to 
an outpatient psychiatrist)
.
Mr. ___ gave verbal and written permission for the team to 
contact his Mother, ___, who was also given an update on Mr. 
___ progress while admitted and discharge plan. A family 
meeting was held on ___, where patient's progress and 
disposition planning was discussed. This was conducted with a 
___ interpreter. All questions and concerns from the 
patient and his mother were discussed and addressed during this 
meeting. 
.
6. INFORMED CONSENT: 
Medication: Risperidone 3 mg
---Intended effects/Benefits: treatment of psychosis
---Adverse effects/Risks: Drowsiness, nausea, akathisia, EPS, 
tremor, TD, QTc prolongation
Mr. ___ was informed of alternative treatments, the consequences 
of no treatment, and the expected duration of treatment. He 
appeared to appreciate the information conveyed in the consent 
process by asking appropriate questions, which were answered by 
the treatment team, and expressing understanding of the 
potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Mr. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself due to decompensated psychotic 
symptoms. Mr. ___ static risk factors noted at that time 
include male gender, young age, and recent discharge from an 
inpatient psychiatric unit. The modifiable risk factors 
identified were as such - psychosis, acutely stressful events in 
the context of school, social withdrawal, lack of insight, 
absence of established outpatient psychiatrist. These modifiable 
risk factors were addressed with acute stabilization in a safe 
environment on a locked inpatient unit, psychopharmacologic 
adjustments, psychotherapeutic interventions (OT groups, SW 
groups, individual therapy meetings with psychiatrists), and 
presence on a social milieu environment.  Mr. ___ is being 
discharged with many protective factors, including active 
familial supports, no substance use, and a future-oriented 
viewpoint (he is studying to be a doctor).  Overall, based on 
the totality of our assessment at this time, Mr. ___ is not at 
an acutely elevated risk of harm to self nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE 1 mg PO BID 

 
Discharge Medications:
1. RisperiDONE 1 mg PO DAILY
2. RisperiDONE 2 mg PO QHS
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Psychotic Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___